Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Admission for allo SCT
 
Major Surgical or Invasive Procedure:
Allogeneic Hematopoietic Stem Cell Transplant - ___

 
History of Present Illness:
Ms. ___ is a ___ year old woman otherwise healthy woman who was 
diagnosed with AML in ___ with complex unfavorable 
cytogenetics s/p induction with 7+3 and one cycle of HiDAC, 
admitted today for myeloablative allogeneic transplantion with 
sibling donor.  

She initially presented to ___ ED on ___ with gingival 
hyperplasia and fevers, and found to have WBC 49.5 with 60% 
blasts. Hgb was 7.6 and platelets of 17k. Peripheral blood flow 
cytometry showed 50% blasts of monocyte lineage. Peripheral 
cytogenetics showed monosomy 7, MLL rearrangement. There were 
two related neoplastic clones, and one clone had trisomy 8. Bone 
marrow biopsy confirmed AML with similar cytogenetics as 
peripheral blood. She was initiated on 7+3 daunorubicin and 
cytarabine. Day +14 and subsequent BM bx confirmed morphological 
remission. On ___ she initiated HiDAC consolidation 1 cycle as 
inpatient which she tolerated well. BM Bx on ___ confirmed 
remission with FISH negative for both monosomy 7 and MLL 
rearrangements. 

She reports generally feeling well following HiDAC. Her energy 
level has slowly improved. She is able to walk longer distances 
without fatigue. She has not had any recent illnesses. She 
denies fevers, chills, nausea, vomiting, cough, dyspnea, chest 
pain, diarrhea, constipation, bleeding or bruising.

 
Past Medical History:
PAST ONCOLOGY HISTORY
___: Presented to ___ ED with several week history of 
gingival hyperplasia and fevers. WBC 49.5 with 60% blasts. MLL 
rearranagement, monosomy 7, trisomy 8.
___: BM biopsy confirmed AML (100% hypercellularity, 93% 
blasts
with AML monocytic phenotype). 
BM cytogenetics were similar to PB findings.
FLT3, NMP1, CEBPA mutations not detected.
Echo demonstrated normal EF.
___: 7+3 initiated with daunorubicin 90 and cytarabine.
___: Day +14 BM demonstrated aplasia with no blasts. 
___: BM biopsy performed after recovery of counts demonstrated
morphologic remission. 
FISH studies detected the previously observed monosomy 7 in 7% 
of
interphase cells and the previously observed MLL rearrangement 
in
5% of interphase cells.
___: Received HiDAC consolidation cycle 1 as inpatient.
Tolerated well without any complications.
___: ___ confirms remission with FISH negative for both
monosomy 7 and MLL rearrangement both previously observed on
___ and ___.

PAST MEDICAL HISTORY:
None
 
Social History:
___
Family History:
Her parents are alive and in good overall health. Her father has 
hypertension. She does not know of any family members who have 
had cancer. 
 
Physical Exam:
*ADMISSION PHYSICAL EXAM*
Vitals: 97.5  100/80  98  16  100%ra  83.7lb
Gen: Very pleasant, thin young woman in no acute distress, alert 
and oriented
HEENT: No conjunctival pallor. No icterus. MMM. OP clear.  
NECK: JVP not elevated Normal carotid upstroke without bruits. 
LYMPH: No cervical or supraclav LAD
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: NABS. Soft, NT, ND.  
EXT: WWP. No ___ edema. 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  
NEURO: A&Ox3. Muscle strength ___ ___ bl
LINES: L PICC

*DISCHARGE PHYSICAL EXAM*
Vitals: 98.1 100s/60s ___ 18 100 RA
Today's Weight: 82
Admission Weight: 83.7lb
Gen: well appearing
HEENT: No conjunctival pallor. No icterus. MMM. OP clear, no e/o 
mucositis, oral ulcers or lesions. 
NECK: JVP not elevated
CV: Normocardic, regular. Normal S1,S2. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: +bowel sounds. Non tender, non distended, soft.
EXT: WWP. trace ___ edema, non pitting.
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  Area of 
thickened skin and hyperpigmentation over left elbow, not seen 
elsewhere on body 
NEURO: A&Ox3. 
LINES: R tunneled subclavian w/out surrounding erythema 

 
Pertinent Results:
*ADMISSION LABS*

___ 08:40AM BLOOD WBC-3.4* RBC-3.29* Hgb-10.3* Hct-31.7* 
MCV-96 MCH-31.3 MCHC-32.5 RDW-18.9* RDWSD-64.7* Plt ___
___ 08:40AM BLOOD Neuts-62.8 Lymphs-18.7* Monos-17.3* 
Eos-0.0* Baso-0.6 Im ___ AbsNeut-2.15 AbsLymp-0.64* 
AbsMono-0.59 AbsEos-0.00* AbsBaso-0.02
___ 08:40AM BLOOD ___ PTT-34.5 ___
___ 08:40AM BLOOD UreaN-14 Creat-0.5 Na-138 K-4.3 Cl-102 
HCO3-28 AnGap-12
___ 08:40AM BLOOD ALT-23 AST-47* LD(LDH)-222 AlkPhos-141* 
TotBili-0.2 DirBili-0.1 IndBili-0.1
___ 08:40AM BLOOD TotProt-7.6 Albumin-4.5 Globuln-3.1 
Calcium-10.3 Phos-5.4* Mg-1.9 UricAcd-6.0*

*PERTINENT RESULTS*

CBC TREND
___ 12:00AM BLOOD WBC-0.2*# RBC-2.61* Hgb-8.2* Hct-24.8* 
MCV-95 MCH-31.4 MCHC-33.1 RDW-16.1* RDWSD-56.2* Plt Ct-64*
___ 12:00AM BLOOD WBC-0.2*# RBC-2.43* Hgb-7.6* Hct-22.7* 
MCV-93 MCH-31.3 MCHC-33.5 RDW-15.4 RDWSD-52.9* Plt Ct-22*
___ 01:50PM BLOOD WBC-0.3* RBC-2.31* Hgb-7.2* Hct-21.1* 
MCV-91 MCH-31.2 MCHC-34.1 RDW-14.8 RDWSD-49.4* Plt Ct-13*
___ 12:00AM BLOOD WBC-0.8*# RBC-2.47* Hgb-7.7* Hct-22.1* 
MCV-90 MCH-31.2 MCHC-34.8 RDW-15.2 RDWSD-49.1* Plt Ct-34*#
___ 12:00AM BLOOD WBC-1.6* RBC-2.42* Hgb-7.6* Hct-22.0* 
MCV-91 MCH-31.4 MCHC-34.5 RDW-14.6 RDWSD-47.4* Plt Ct-93*#
___ 12:00AM BLOOD WBC-2.0* RBC-2.60* Hgb-8.1* Hct-23.7* 
MCV-91 MCH-31.2 MCHC-34.2 RDW-14.6 RDWSD-47.8* Plt ___
___ 12:11AM BLOOD WBC-2.7* RBC-2.49* Hgb-7.9* Hct-23.2* 
MCV-93 MCH-31.7 MCHC-34.1 RDW-14.8 RDWSD-49.9* Plt ___
___ 12:00AM BLOOD WBC-3.8* RBC-2.71* Hgb-8.5* Hct-25.8* 
MCV-95 MCH-31.4 MCHC-32.9 RDW-15.4 RDWSD-51.5* Plt ___
___ 12:26AM BLOOD WBC-4.6 RBC-2.95* Hgb-9.2* Hct-27.6* 
MCV-94 MCH-31.2 MCHC-33.3 RDW-15.3 RDWSD-50.6* Plt ___
___ 12:00AM BLOOD WBC-4.2 RBC-3.03* Hgb-9.3* Hct-28.6* 
MCV-94 MCH-30.7 MCHC-32.5 RDW-15.1 RDWSD-50.9* Plt ___

LFT TREND
___ 02:04PM BLOOD LD(___)-193 TotBili-0.2
___ 12:34AM BLOOD ALT-16 AST-30 LD(___)-159 AlkPhos-121* 
TotBili-0.1
___ 12:18PM BLOOD ALT-55* AST-63* AlkPhos-119* TotBili-0.2
___ 12:00AM BLOOD ALT-65* AST-103* LD(___)-173 AlkPhos-108* 
TotBili-0.2
___ 12:00AM BLOOD ALT-42* AST-30 LD(___)-158 AlkPhos-106* 
TotBili-0.4
___ 12:00AM BLOOD ALT-39 AST-54* LD(___)-205 AlkPhos-107* 
TotBili-0.2 DirBili-0.1 IndBili-0.1
___ 12:00AM BLOOD ALT-36 AST-42* LD(___)-159 AlkPhos-112* 
TotBili-0.3
___ 12:00AM BLOOD ALT-34 AST-42* LD(___)-154 AlkPhos-109* 
TotBili-0.2
___ 12:00AM BLOOD ALT-24 AST-28 LD(___)-173 AlkPhos-128* 
TotBili-0.3
___ 12:00AM BLOOD ALT-12 AST-24 AlkPhos-113* TotBili-0.3
___ 12:00AM BLOOD ALT-14 AST-24 LD(___)-209 AlkPhos-104 
TotBili-0.3
___ 12:00AM BLOOD ALT-13 AST-28 LD(___)-212 AlkPhos-112* 
TotBili-0.3
___ 12:11AM BLOOD ALT-11 AST-23 LD(___)-214 AlkPhos-109* 
TotBili-0.2
___ 12:22AM BLOOD ALT-9 AST-23 LD(___)-253* AlkPhos-107* 
TotBili-0.2
___ 12:00AM BLOOD ALT-9 AST-27 LD(___)-247 AlkPhos-111* 
TotBili-0.2
___ 12:00AM BLOOD ALT-7 AST-26 LD(___)-242 AlkPhos-105 
TotBili-0.3
___ 12:26AM BLOOD ALT-12 AST-34 LD(___)-252* AlkPhos-98 
TotBili-0.5
___ 12:00AM BLOOD ALT-12 AST-31 LD(___)-241 AlkPhos-105 
TotBili-0.4

IGG TREND
___ 12:00AM BLOOD IgG-997

CYCLOSPORIN LEVELS
___ 06:20AM BLOOD Cyclspr-103
___ 08:55AM BLOOD Cyclspr-89*
___ 09:00AM BLOOD Cyclspr-155
___ 09:25AM BLOOD Cyclspr-166
___ 09:19AM BLOOD Cyclspr-140
___ 09:10AM BLOOD Cyclspr-200
___ 06:32AM BLOOD Cyclspr-280
___ 09:30AM BLOOD Cyclspr-222
___ 09:10AM BLOOD Cyclspr-236
___ 09:33AM BLOOD Cyclspr-308
___ 09:05AM BLOOD Cyclspr-228
___ 09:00AM BLOOD Cyclspr-188

DISCHARGE LABS:
___ 12:00AM BLOOD WBC-4.2 RBC-3.03* Hgb-9.3* Hct-28.6* 
MCV-94 MCH-30.7 MCHC-32.5 RDW-15.1 RDWSD-50.9* Plt ___
___ 12:00AM BLOOD Neuts-46 Bands-1 ___ Monos-31* 
Eos-0 Baso-0 Atyps-1* Metas-1* Myelos-0 AbsNeut-1.97 
AbsLymp-0.88* AbsMono-1.30* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Plt Smr-NORMAL Plt ___
___ 12:00AM BLOOD ___ PTT-33.7 ___
___ 12:00AM BLOOD Glucose-91 UreaN-12 Creat-0.5 Na-138 
K-4.1 Cl-102 HCO3-26 AnGap-14
___ 12:00AM BLOOD ALT-12 AST-31 LD(LDH)-241 AlkPhos-105 
TotBili-0.4
___ 12:00AM BLOOD Calcium-10.2 Phos-4.8* Mg-1.5*

IMAGING:

___ CT ABD/PELVIS
IMPRESSION: 
1. No clear acute intra-abdominal or pelvic pathology. 
2. Slight indistinctness of the gallbladder wall is not well 
assessed on this 
noncontrast CT study.  If localizing symptoms are present, 
ultrasound of the 
right upper quadrant may be considered for further evaluation of 
the 
gallbladder.  
RECOMMENDATION(S):  If localizing symptoms are present, 
ultrasound of the 
right upper quadrant for further evaluation of the gallbladder 
wall. 
  
MICRO
___ CMV VIRAL LOAD - NEG
___ URINE URINE CULTURE-NEG
___ BLOOD CULTURE - NEG
___ BLOOD CULTURE - NEG
___ CMV Viral Load - NEG
___ BLOOD CULTURE - NEG
___ BLOOD CULTURE - NEG
___ URINE URINE CULTURE - NEG

PATHOLOGY
___ BM BIOPSY
**BONE MARROW ASPIRATE AND CORE BIOPSY:
DIAGNOSIS: CELLULAR BONE MARROW WITH ERYTHROID PREDOMINANT 
MATURING TRILINEAGE HEMATOPOIESIS AND NO MORPHOLOGIC EVIDENCE OF 
INVOLVEMENT BY ACUTE MYELOID LEUKEMIA 
**CYTOGENETICS: Negative for MLL, NEGATIVE for DELETION 5q31 or 
MONSOMY 5. Negative for monsomy 7. Normal female karyotype.
**FLOW: RESULTS: 10-color analysis with linear side scatter vs. 
CD45 gating was used to evaluate lymphocytes and blasts. The 
viability of the analyzed nondebris events done by 7-AAD is 98%. 
No abnormal events are identified in the "blast gate." CD34+ 
myeloblasts with a normal immunophenotype represent only 1% of 
total viable events.
INTERPRETATION: Diagnostic immunophenotypic features of 
involvement by leukemia are not seen in specimen. Correlation 
with clinical findings and morphology (see separate pathology 
report ___-___) is recommended. Flow cytometry 
immunophenotyping may not detect all abnormal populations due to 
topography, sampling or artifacts of simple preparation.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with hx of AML s/p 7+3 induction 
and HiDAC admitted for matched related donor stem cell 
transplant.

# Acute Myeloid Leukemia: Patient is MLL+ indicating high risk 
genetics. She is s/p 7+3 induction and HiDAC consolidation. 
Recent BM bx on ___ showed no residual disease. She underwent 
busulfan/cytoxan conditioning which she tolerated well. She 
underwent MRD allogeneic stem cell transplantation on ___. 
Her post-transplant course was notable for neutropenic fever: 
she developed a fever on ___ with no localizing signs of 
symptoms, and was started on cefepime. She again became febrile 
on ___ and vancomycin was added. Antibiotics were discontinued 
on ___ as her counts had recovered and she was no longer 
febrile. Course also notable for mild mucositis treated with low 
dose oxycodone and lidocaine mouthwash. She continued on 
acyclovir, fluconazole prophylaxis while neutropenic; she was 
started on Bactrim on day +21. She was started on ursodiol for 
prevention of SODS.  She was immunosuppressed with cyclosporin. 
On the day of discharge she was day 21 post transplant and 
counts reflected engraftment.

# Abdominal pain: On ___ she developed diffuse abdominal 
pain. LFTs were normal, amylase and lipase were normal, and CT 
scan was negative for acute process. Her pain abated within 24 
hours without specific intervention. This may have represented 
menstrual cramps or constipation.

TRANSITIONAL ISSUES:
-Immunosuppression: She will need to continue cyclosporin. 
Current dose is 75 BID, last trough checked ___ was 188 and 
dose was not changed at that time.
-Infection prophylaxis: She will continue acyclovir, 
fluconazole. She started PCP prophylaxis with bactrim on the day 
of discharge (post-transplant day 21); please monitor LFTs on 
this 
-She will continue on ursodiol for prevention of sino-occlusive 
disease until at least day +100
-She will need ongoing magnesium repletion at follow up visits.
-She will need topical estrogens. 

# CODE: FULL CODE
# EMERGENCY CONTACT: ___ ___ (Mother), ___ 
___ (father) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q6H:PRN nausea 
2. Acyclovir 400 mg PO Q8H 
3. Docusate Sodium 100 mg PO BID 
4. Fluconazole 400 mg PO Q24H 
5. Leuprolide Acetate 3.75 mg IM QMONTH 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Fluconazole 400 mg PO Q24H 
RX *fluconazole 200 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0
3. FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
5. Ursodiol 300 mg PO Q24H 
RX *ursodiol 300 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0
6. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0
7. Famotidine 20 mg PO Q12H 
RX *famotidine 20 mg 1 tablet(s) by mouth every 12 hours Disp 
#*60 Tablet Refills:*0
8. CycloSPORINE (Neoral) MODIFIED 75 mg PO Q12H 
9. Acyclovir 400 mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Acute Myeloid Leukemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___. You came to the 
hospital for your stem cell transplant. You tolerated this well. 
 You had fevers when your immune system was very suppressed, and 
you were given IV antibiotics for this. 

You will need to take cyclosporine immunosuppression to prevent 
graft versus host disease. You will also need to take 
antibiotics to prevent infection.

Important Instructions:
- Take all medications as prescribed
- Follow a low-bacteria diet (no raw vegetables, fully cook 
meats, avoid tap water and ice)
- Attend all follow-up appointments below

It was our pleasure caring for you. We wish you the best!

Sincerely,
Your ___ care team
 
Followup Instructions:
___